US08530648B2
f) 2,9-diazaspiro[5.5]undecan-1-one hydrochloride
To the stirred solution of tert-butyl 1-oxo-2,9-diazaspiro[5.5]undecane-9-carboxylate (3.0 g, 11.19 mmol) in DCM (60 mL) was added 4N HCl in dioxane (20 mL) and the mixture was stirred at rt for 18 h. The solvent was removed under reduced pressure and triturated with diethyl ether (2×5 mL) to yield the title compound as a solid (2.2 g, 96%). Note: The product is moisture sensitive. [1H-NMR (DMSO-d6, 300 MHz): δ 9.25-8.68 (m, 2H), 7.43 (s, 1H), 7.20-6.25 (m, 2H), 3.61-2.90 (m, 5H), 2.12-1.95 (m, 2H), 1.76-1.49 (m, 5H); LCMS RtA=0.326, [M+H]+=169.0].

reactant | tert-butyl 1-oxo-2,9-diazaspiro[5.5]undecane-9-carboxylate | 11.19 mmol, 3.0 g | O=C1NCCCC12CCN(CC2)C(=O)OC(C)(C)C | C14H24N2O3
reactant | HCl | 4N | Cl | ClH
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 2,9-diazaspiro[5.5]undecan-1-one hydrochloride | 2.2 g, 96% | Cl.C1(NCCCC12CCNCC2)=O | InChI=1S/C9H16N2O.ClH/c12-8-9(2-1-5-11-8)3-6-10-7-4-9;/h10H,1-7H2,(H,11,12);1H
